US06069163
EXAMPLE 23 Step A. N-(Boc)-(S)-4-iodo-phenylalanine tert-butyl ester
To a suspension of 7.5 g (0.019 m) of 4-iodophenylalanine tert-butyl ester in 100 mL of dichloromethane was added 2.52 g 0.019 m of diisopropyl ethyl amine followed by 4.14 g of di-tert-butyl-dicarbonate. The reaction mixture was stirred over night at room temperature, washed with 1N HCl (2×25 mL), water (2×25 mL), saturated NaHCO3 (1×25 mL), brine (1×25 mL) and was dried over MgSO4. The mixture was filtered and concentrated in vacuo to give the desired product as a gum 8.8 g (100% yield). 300 MHz 1H NMR (CDCl3): 1.39 (s, 18H); 2.98 (AB, 2H); 4.4 (dd, 2H); 5.0 bd, 1H); 6.92 (d, 2H); 7.62 (d, 2H).

reactant | 4-iodophenylalanine tert-butyl ester | 7.5 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)I)=O | C13H18INO2
reactant | diisopropyl ethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl-dicarbonate | 4.14 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(Boc)-(S)-4-iodo-phenylalanine tert-butyl ester | 8.8 g, 100% yield | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)I)=O | C18H26INO4
